US07084145B2
1-Pyrimidin-2-yl-piperidine-4-carboxylic acid N′-(3-methyl-butyryl)-hydrazide
The residue was added to a mixture of 1-pyrimidin-2-yl-piperidine-4-carboxylic acid (6.6 g, 31.7 mmol) (see reference U.S. Pat. No. 4,826,843), 1-hydroxybenzotriazole hydrate (4.28 g, 31.7 mmol) and 1-(3-dimethylaminopropyl-3-ethylcarbodiimide hydrochloride (6.09 g, 31.7 mmol) in dichloromethane (50 ml). Diisopropylethylamine (17 ml, 95 mmol) was added and the mixture was stirred for 3 days. The solvent was evaporated and the residue was triturated with water and then with diethyl ether to give the title compound as a white solid (4.49 g).

reactant | 1-pyrimidin-2-yl-piperidine-4-carboxylic acid | 31.7 mmol, 6.6 g | N1=C(N=CC=C1)N1CCC(CC1)C(=O)O | C10H13N3O2
reactant | 1-hydroxybenzotriazole hydrate | 31.7 mmol, 4.28 g | O.ON1N=NC2=C1C=CC=C2
reactant | 3-dimethylaminopropyl-3-ethylcarbodiimide hydrochloride | 31.7 mmol, 6.09 g | Cl.CN(CCCN=C=NCC)C
reactant | Diisopropylethylamine | 95 mmol, 17 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-Pyrimidin-2-yl-piperidine-4-carboxylic acid N′-(3-methyl-butyryl)-hydrazide | 4.49 g | CC(CC(=O)NNC(=O)C1CCN(CC1)C1=NC=CC=N1)C | C15H23N5O2
